US05387710
(S)-3-Methoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-amine hydrochloride (35.5 g) was neutralized with cold 2N sodium hydroxide (155 ml) and the mixture was extracted once with ethyl acetate (310 ml). The extract was washed once with brine (155 ml), dried over anhydrous sodium sulfate, and concentrated in vacuo to afford (S)-3-methoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-amine (30.1 g). A mixture of (S)-3-methoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-amine (30.1 g), 10% palladium on carbon (50% wet; 5.96 g), acetic acid (0.89 ml), benzaldehyde (31.6 ml), and ethanol (300 ml) was stirred at ambient temperature for 3 hours. Then, hydrogen was introduced to the mixture and stirring was continued for an additional 1.5 hours. The catalyst was filtered off and washed with ethanol. Removal of the solvent in vacuo gave the residue, which was dissolved in ethyl acetate (423 ml). To this solution was added, with mechanically stirring in an ice-bath, 4N hydrogen chloride in ethyl acetate (77 ml). After stirring at ambient temperature for 1.5 hours, the mixture was filtered and the cake was washed with ethyl acetate (50 ml). The product was dried in vacuo to give (S)-N-benzyl-3-methoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-amine hydrochloride (47.3 g) as a white solid.

reactant | (S)-3-Methoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-amine hydrochloride | 35.5 g | Cl.COC1=CC2=C(CCC[C@@H](C2)N)C=C1
reactant | sodium hydroxide | 2N, 155 ml | [OH-].[Na+]
product | (S)-3-methoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-amine | 30.1 g | COC1=CC2=C(CCC[C@@H](C2)N)C=C1 | C12H17NO
